US04929613
Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-2,5-difluoro-β-oxobenzenepropionate.
A solution of 3.00 g (10.7 mmol) of 1-acetyl-4-(4-carboxy-2,5-difluorophenyl)-1,2,3,6-tetrahydropyridine in 160 ml of dry tetrahydrofuran at 0° C. was treated with 2.67 g (16.4 mmol) of carbonyldiimidazole. The mixture was stirred 2.5 hours at room temperature, treated with 4.13 g (14.4 mmol) magnesium ethyl malonate, stirred overnight, refluxed 2 hours, evaporated and shaken with a mixture of ethyl acetate and 3 N hydrochloric acid. The organic layer was extracted with sodium bicarbonate solution, dried and evaporated to give the title compound as a syrup.

reactant | 1-acetyl-4-(4-carboxy-2,5-difluorophenyl)-1,2,3,6-tetrahydropyridine | 10.7 mmol, 3.00 g | C(C)(=O)N1CCC(=CC1)C1=C(C=C(C(=C1)F)C(=O)O)F | C14H13F2NO3
reactant | carbonyldiimidazole | 16.4 mmol, 2.67 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | magnesium ethyl malonate | 14.4 mmol, 4.13 g | C(CC(=O)[O-])(=O)OCC.[Mg+2].C(C)OC(CC(=O)[O-])=O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | Ethyl 4-(1-acetyl-1,2,3,6-tetrahydro-4-pyridyl)-2,5-difluoro-β-oxobenzenepropionate | C(C)(=O)N1CCC(=CC1)C1=CC(=C(C=C1F)C(CC(=O)OCC)=O)F | C18H19F2NO4
